US04385066
N-(2-(4-Carbomethoxyphenyl)-1,1-dimethylethyl)-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine
The title compound was prepared as in Example 1a from 3-trifluoromethylphenyl glyoxal (2.0 g) and 2-(4-carbomethoxyphenyl)-1,1-dimethyl ethanamine (2.0 g) and crystallised from hexane m.p. 88°-90°. τ(CDCl3) 8.93 (6H,s), 6.8-8.0 (4H,m+2H replaceable by D2O), 6.1 (3H,s), 5.33 (1H,m), 2.8 (2H,d,J=8 Hz), 2.2-2.6 (4H,m), 2.03 (2H,d,J=8 Hz).

reactant | 3-trifluoromethylphenyl glyoxal | 2.0 g | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 2-(4-carbomethoxyphenyl)-1,1-dimethyl ethanamine | 2.0 g | C(=O)(OC)C1=CC=C(C=C1)CC(N)(C)C | C12H17NO2
product | N-(2-(4-Carbomethoxyphenyl)-1,1-dimethylethyl)-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C21H24F3NO3
